US04478849
N-Benzyl-N-(2-[4-carbomethoxyphenyl]-1-methylethyl)-2-(4-benzyloxy-3-ureidophenyl)-2-oxoethanamine
1-(4-Benzyloxy-3-ureidophenyl)-2-bromoethanone (3.1 g) and N-benzyl-(2-[4-carbomethoxyphenyl]-1-methylethanamine) (4.85 g) were heated in refluxing acetonitrile (50 ml) for 2 hours. The solution was diluted with an equal volume of ether, filtered and the filtrate diluted further with ether (200 ml). The solution was washed with water, dried and evaporated to give the title compound, mp 140°-145° (ethyl acetate). τ (CDCl3) 9.00 (3H, d, J=6 Hz), 6.70-7.60 (3H, m), 6.0-6.4 (4H, m), 6.20 (3H, s), 4.90 (2H, s), 6.32 (2H, b), 2.1-3.3 (17H, m), 1.20 (1H, d, J=2 Hz).

reactant | 1-(4-Benzyloxy-3-ureidophenyl)-2-bromoethanone | 3.1 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CBr)=O)NC(=O)N | C16H15BrN2O3
reactant | N-benzyl-(2-[4-carbomethoxyphenyl]-1-methylethanamine) | 4.85 g | C(C1=CC=CC=C1)NC(CC1=CC=C(C=C1)C(=O)OC)C | C18H21NO2
reactant | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | ether | CCOCC | C4H10O
product | N-Benzyl-N-(2-[4-carbomethoxyphenyl]-1-methylethyl)-2-(4-benzyloxy-3-ureidophenyl)-2-oxoethanamine | C(C1=CC=CC=C1)N(CC(=O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)NC(=O)N)C(CC1=CC=C(C=C1)C(=O)OC)C | C34H35N3O5
